US20010036946A1
d) 2-amino-3-[[[1-(phenylmethyl)-4-piperidinyl]-amino]methyl]-pyridine
A mixture of 6.0 g (0.0158 mol) of N-[3-[[[1-(phenylmethyl)-4-piperidinyl]amino]methyl]-2-pyridinyl]-2,2-dimethylpropanamide and 100 ml of conc. hydrochloric acid was refluxed for 3 hours. The mixture was evaporated down in vacuo, the residue remaining was dissolved in a little water and made alkaline by the addition of solid potassium carbonate. It was extracted thoroughly with ethyl acetate, the combined extracts were dried over sodium sulphate and evaporated down in vacuo. The residue was thoroughly triturated with diisopropylether and yielded 4.2 g (89.7% of theory) of colourless crystals of melting point 114° C.

reactant | N-[3-[[[1-(phenylmethyl)-4-piperidinyl]amino]methyl]-2-pyridinyl]-2,2-dimethylpropanamide | 0.0158 mol, 6.0 g | C1(=CC=CC=C1)CN1CCC(CC1)NCC=1C(=NC=CC1)NC(C(C)(C)C)=O | C23H32N4O
solvent | hydrochloric acid | 100 ml | Cl | ClH
product | 2-amino-3-[[[1-(phenylmethyl)-4-piperidinyl]-amino]methyl]-pyridine | NC1=NC=CC=C1CNC1CCN(CC1)CC1=CC=CC=C1 | C18H24N4
